US07060721B1
4-Bromo-2-ethyl-5-(hydroxymethyl)imidazole (18.9 g) was dissolved in dry dimethylformamide (189 ml), and manganese dioxide (80.1 g) was added. The mixture was stirred at room temperature for 5 hr and left standing overnight. The reaction mixture was filtered through celite and insoluble matter was washed with chloroform. The filtrate and washing were combined and concentrated to dryness under reduced pressure. The residue was washed with water to give 5-bromo-2-ethylimidazole-4-carbaldehyde (12.9 g) as a brown powder.

reactant | 4-Bromo-2-ethyl-5-(hydroxymethyl)imidazole | 18.9 g | BrC=1N=C(NC1CO)CC | C6H9BrN2O
solvent | dimethylformamide | 189 ml | CN(C=O)C | C3H7NO
catalyst | manganese dioxide | 80.1 g | [O-2].[O-2].[Mn+4]
product | 5-bromo-2-ethylimidazole-4-carbaldehyde | 12.9 g | BrC1=C(N=C(N1)CC)C=O | C6H7BrN2O
